US07728025B2
(Step 1) Production of 1-(2-fluoro-4-nitro-phenyl)-3-buten-1-ol
0.65 ml of titanium tetrachloride was added to a chloroform (12 ml) solution of 2.00 g of 4-nitro-2-fluoro-benzaldehyde produced according to the method described in U.S. Pat. No. 6,239,152, and the reaction liquid was stirred at room temperature for 10 minutes, and then 2.4 ml of allyl-trimethyl-silane was added to it, and the reaction liquid was stirred at room temperature for 20 minutes. The reaction liquid was diluted with ethyl acetate, washed with water and saturated saline, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=3/1) to obtain the entitled compound as an orange solid.

reactant | chloroform | 12 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 4-nitro-2-fluoro-benzaldehyde | 2.00 g | [N+](=O)([O-])C1=CC(=C(C=O)C=C1)F | C7H4FNO3
reactant | allyl-trimethyl-silane | 2.4 ml | C(C=C)[Si](C)(C)C | C6H14Si
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | titanium tetrachloride | 0.65 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 1-(2-fluoro-4-nitro-phenyl)-3-buten-1-ol | FC1=C(C=CC(=C1)[N+](=O)[O-])C(CC=C)O | C10H10FNO3
